US05852011
N-[(N,N-Dimethylamino)ethyl]-2-[N,N-bis(2-hydroxyethyl)amino]-5-nitrobenzamide
Diethanolamine (5 g; 48.6 mmol) was added to a solution of 5 g (18.4 mmol) of N-[(N,N-dimethylamino)ethyl]-2-chloro-5-nitrobenzamide in 10 ml of DMSO, followed by stirring at 150° C. for 3.5 hours. After the resulting mixture was cooled to room temperature, it was extracted with ethyl acetate. Magnesium sulfate was added to the extract to dry the same, and the solvent was then distilled out under reduced pressure. The residue was purified by chromatography on a silica gel column (ethyl acetate/methanol=1/0→1/1), whereby 2.6 g of the title compound were obtained as a colorless oil (yield: 38%).

reactant | Diethanolamine | 48.6 mmol, 5 g | N(CCO)CCO | C4H11NO2
reactant | N-[(N,N-dimethylamino)ethyl]-2-chloro-5-nitrobenzamide | 18.4 mmol, 5 g | CN(C)CCNC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C11H14ClN3O3
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | N-[(N,N-Dimethylamino)ethyl]-2-[N,N-bis(2-hydroxyethyl)amino]-5-nitrobenzamide | 2.6 g | CN(C)CCNC(C1=C(C=CC(=C1)[N+](=O)[O-])N(CCO)CCO)=O | C15H24N4O5
